US06903215B2
Synthesis of 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(5-phenylbenzoxazol-2-ylmethyl)pentan-2-ol
n-Butyl lithium (0.246 mL, 1.6 M in hexanes) was added to a solution of diisopropyl amine (0.055 mL, 0.45 mmol) in anhydrous THF (5 mL) at 0° C. The reaction mixture was cooled to −78° C. and stirred for 15 minutes. 2-Methyl-5-phenyl benzoxazole (75 mg, 0.4 mmol) dissolved in anhydrous THF (2 mL) was added to this mixture dropwise. After the addition, the reaction mixture was stirred for 15 to 30 minutes. 1,1,1-Trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-one (100 mg, 0.4 mmol) was added as a solution in anhydrous THF (2 mL) in one portion, the cold bath was removed and the reaction was stirred at room temperature for 12 hours. THF was evaporated under reduced pressure. Water (2 mL) was added to the residue and the mixture was extracted with three 5 mL portions of EtOAc. The extract was dried over magnesium sulfate. After evaporation, the residue was chromatographed on a silica gel column to provide 150 mg of the title compound as white crystals, m.p. 103° C.-104° C.

reactant | n-Butyl lithium | 1.6 M, 0.246 mL | C(CCC)[Li]
reactant | diisopropyl amine | 0.45 mmol, 0.055 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-Methyl-5-phenyl benzoxazole | 0.4 mmol, 75 mg | CC=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C14H11NO
reactant | 1,1,1-Trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-one | 0.4 mmol, 100 mg | FC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)=O)(F)F | C13H14F4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(5-phenylbenzoxazol-2-ylmethyl)pentan-2-ol | 150 mg | FC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)CC=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)(F)F | C27H25F4NO3
